US05585485
2-(2-amino-4-thiazolyl)-(Z)-2-[(diphenylmethoxycarbonylmethoxy)imino]acetic Acid
16.5 g of O-diphenylmethoxycarbonylmethylhydroxylamine and 9.9 g of (2-amino-4-thiazolyl)glyoxylic acid are stirred for 3 hours at room temperature in 30 ml of dimethylformamide. The reaction mixture is introduced into 500 ml of methanol, and the resultant deposit is filtered off. 18 g of the title compound are obtained as colourless crystals. M.p.: 125°.

reactant | O-diphenylmethoxycarbonylmethylhydroxylamine | 16.5 g | C1(=CC=CC=C1)C(OC(=O)CON)C1=CC=CC=C1 | C15H15NO3
reactant | (2-amino-4-thiazolyl)glyoxylic acid | 9.9 g | NC=1SC=C(N1)C(C(=O)O)=O | C5H4N2O3S
reactant | methanol | 500 ml | CO | CH4O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(2-amino-4-thiazolyl)-(Z)-2-[(diphenylmethoxycarbonylmethoxy)imino]acetic Acid | 18 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17N3O5S
